US09145392B2
6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-(6-piperazin-1-yl-pyridin-3-yl)-pyrimidin-4-ylamine (“26”)
The title compound was prepared in an analogous manner as 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using (6-(piperazin-1-yl)pyridin-3-yl)boronic acid instead of 4-fluorophenylboronic acid. LC-MS: (M+1=582, obsd.=582).

reactant | 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | FC1=CC=C(C=C1)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C26H23F5N6
reactant | (6-(piperazin-1-yl)pyridin-3-yl)boronic acid | N1(CCNCC1)C1=CC=C(C=N1)B(O)O | C9H14BN3O2
product | 6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-(6-piperazin-1-yl-pyridin-3-yl)-pyrimidin-4-ylamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C(C(=NC=N1)N)C=1C=NC(=CC1)N1CCNCC1)C(F)(F)F | C29H31F4N9
